US04803192
Synthesis of 3-(4-Diethylamino-2-Ethoxyphenyl)-3-(1-Ethyl-2-Methylindol-3-yl)Phthalide
In a flask were charged 0.05 mol of m-diethyl-aminophenetidine and 0.05 mol of 3-(o-carboxybenzoyl)-1-ethyl-2-methylindole obtained by reacting 1-ethyl-2-methylindole and phthalic anhydride, and 0.3 mol of acetic anhydride was added thereto, followed by heating at 60° to 80° C. The reaction proceeded rapidly, and the reaction system assumed a bluish purple color. The reaction mixture was poured into water, and the precipitated crystals were collected by filtration and recrystallized from toluene to obtain the above-named compound having a melting point of 193° C.

reactant | m-diethyl-aminophenetidine | 0.05 mol | C(C)C1(OCCN)CC(=C(C=C1)N)CC | C12H22N2O
reactant | 3-(o-carboxybenzoyl)-1-ethyl-2-methylindole | 0.05 mol | C(=O)(O)C1=C(C(=O)C2=C(N(C3=CC=CC=C23)CC)C)C=CC=C1 | C19H17NO3
reactant | 1-ethyl-2-methylindole | C(C)N1C(=CC2=CC=CC=C12)C | C11H13N
reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | acetic anhydride | 0.3 mol | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 3-(4-Diethylamino-2-Ethoxyphenyl)-3-(1-Ethyl-2-Methylindol-3-yl)Phthalide | C(C)N(C1=CC(=C(C=C1)C1(OC(=O)C2=CC=CC=C12)C1=C(N(C2=CC=CC=C12)CC)C)OCC)CC | C31H34N2O3
